US06239131B1
2-tert-Butoxycarbonylamino-3-benzyloxycarbonylaminopropionic acid (1.06 g) was dissolved in methanol (50 ml). 10% Palladium carbon (100 mg) was added thereto, and the mixture was stirred at room temperature for two hours under hydrogen atmosphere. The resultant mixture was filtered, and the filtrate was concentrated under reduced pressure to thereby obtain 540 mg of 3-amino-2-tert-butoxycarbonylaminopropionic acid, which was dissolved in ethanol (50 ml). Potassium carbonate (365 mg) and 2-fluoronitrobenzene (377 mg) were added thereto, and the mixture was refluxed with heat for 3 hours. The resultant mixture was concentrated under reduced pressure. Water was added to the residue, and the residue was washed with diethyl ether. 1N Hydrochloric acid was added to the aqueous layer to adjust pH to 3. The resultant mixture was extracted with methylene chloride. The organic layer was dried over anhydrous sodium sulfate and the solvent was evaporated under reduced pressure, to thereby obtain 530 mg of the title compound.

reactant | 2-tert-Butoxycarbonylamino-3-benzyloxycarbonylaminopropionic acid | 1.06 g | C(C)(C)(C)OC(=O)NC(C(=O)O)CNC(=O)OCC1=CC=CC=C1 | C16H22N2O6
solvent | methanol | 50 ml | CO | CH4O
catalyst | Palladium carbon | 100 mg | [C].[Pd]
product | 3-amino-2-tert-butoxycarbonylaminopropionic acid | 540 mg | NCC(C(=O)O)NC(=O)OC(C)(C)C | C8H16N2O4
